### PR TITLE
[Merged by Bors] - chore(LinearAlgebra/Eigenspace/Basic): remove an erw

### PR DESCRIPTION
**Pull request by yuanyi-350**
- rewrites `genEigenspace_restrict` by replacing the induction with a single `simp only` chain using the restriction and kernel lemmas

Extracted from #38415

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Eigenspace/Basic.lean [hunk 1]
```diff
@@ -747,14 +747,10 @@ theorem genEigenspace_restrict (f : End R M) (p : Submodule R M) (k : ℕ∞) (
...
-  | zero =>
-    rw [pow_zero, pow_zero, Module.End.one_eq_id]
-    apply (Submodule.ker_subtype _).symm
-  | succ l ih =>
-    erw [pow_succ, pow_succ, LinearMap.ker_comp, LinearMap.ker_comp, ih, ← LinearMap.ker_comp,
-      LinearMap.comp_assoc]
+  simp only [genEigenspace_nat, ← LinearMap.ker_comp, ← LinearMap.restrict_smul_one μ,
+    LinearMap.restrict_sub hfp, Module.End.pow_restrict _,
+    ← LinearMap.ker_comp_of_ker_eq_bot _ (Submodule.ker_subtype p),
+    LinearMap.subtype_comp_restrict, LinearMap.domRestrict]
```
Comment (loefflerd) [inline Mathlib/LinearAlgebra/Eigenspace/Basic.lean]: I'm wary of a `simp only` with this many explicit arguments (which will presumably only work if applied in a specific order which `simp` has to find for itself). Maybe `simp_rw` (or even just `rw`) is better here.

Comment (YaelDillies) [reply Mathlib/LinearAlgebra/Eigenspace/Basic.lean]: Or just unsqueeze the simp

Comment (loefflerd) [reply Mathlib/LinearAlgebra/Eigenspace/Basic.lean]: Unsqueezing the simp seems worse still, to me. Doesn't that virtually _guarantee_ that this will break if any new simp lemmas get added that apply to anything here?

**Comment by loefflerd** [comment]
LGTM

maintainer merge

File: Mathlib/LinearAlgebra/Eigenspace/Basic.lean (hunk 1 above)
Comment (yuanyi-350) [reply Mathlib/LinearAlgebra/Eigenspace/Basic.lean]: Should I add a comment here to clarify?

Comment (loefflerd) [reply Mathlib/LinearAlgebra/Eigenspace/Basic.lean]: I'd say this isn't necessary (IMHO)

**Review by j-loreaux — COMMENTED** [review]
bors merge
